US08048878B2
Synthesis of methyl (S)-2-tert-butoxycarbonylamino-5-(3,4-difluorophenyl)-5-oxopentanoate
To a solution of (S)-5-oxopyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (5.5 g) in tetrahydrofuran (100 mL), 3,4-difluorophenylmagnesium bromide (0.5 M solution in tetrahydrofuran; 50 mL) was added dropwise at −40° C. over 10 minutes, and the reaction solution was stirred at −40° C. to 0° C. for two hours. Water was added to the solution in small portions, followed by extraction with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane-ethyl acetate system) to obtain 8.0 g of the title compound. The property values of the compound are as follows.

reactant | (S)-5-oxopyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 5.5 g | COC(=O)[C@H]1N(C(CC1)=O)C(=O)OC(C)(C)C | C11H17NO5
reactant | Water | O | H2O
reactant | 3,4-difluorophenylmagnesium bromide | 0.5 M, 50 mL | FC=1C=C(C=CC1F)[Mg]Br
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | methyl (S)-2-tert-butoxycarbonylamino-5-(3,4-difluorophenyl)-5-oxopentanoate | 8.0 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CCC(=O)C1=CC(=C(C=C1)F)F | C17H21F2NO5
